US05012015
Iodine (5 parts) was dissolved in 96% sulfuric acid (1000 parts) and 4-ethylbenzenesulfonic acid (186 parts) was added thereto. Chlorine (about 235 parts) was introduced therein, while being stirred at a temperature of 40° to 60° C. Then, a 2,3,5-trichloro-4-ethylbenzenesulfonic acid content in the reaction mixture reached 78.3%. Successively, water (200 parts) was added to the reaction mixture so as to make a ratio of sulfuric acid to water 8:2, and the reaction mixture was subjected to steam distillation at a temperature of 160° to 200° C., thereby performing desulfonation reaction. Mixed acid consisting of 67% nitric acid (110 parts) and concentrated sulfuric acid (174 parts) was added dropwise to the desulfonation reaction product isolated from water, while being stirred at a temperature of 20° to 40° C., and the mixture was kept at that temperature for 1 to 3 hours. Thereafter, the reaction mixture was poured into water (950 parts) at a temperature of 30° C. or below. The reaction product was separated from water and then washed with water. The crude product of 2,3,5-trichloro-4-ethylnitrobenzene (220 parts) was added to a mixture of methanol (1560 parts), water (200 parts) and potassium hydroxide (240 parts), and the resulting mixture was refluxed for 4 hours. Thereafter, the reaction mixture was cooled to ambient temperature to deposit precipitate. The precipitate separated and washed with methanol and then water was placed in 20 % sulfuric acid (510 parts). The mixture was stirred for 3 hours at a temperature of 70° to 75° C., and then cooled to produce crystals of 2,4-dichloro-3-ethyl-6-nitrophenol. The crystals were collected on a filter, washed with water and then dried to obtain a desired product (141.8 parts). The over-all yield from 4-ethylbenzenesulfonic acid was found to be 60.1 %. The product had a melting point of 45.1° to 46.5° C.

reactant | Iodine | II | I2
reactant | 4-ethylbenzenesulfonic acid | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
reactant | Chlorine | ClCl | Cl2
reactant | 2,3,5-trichloro-4-ethylbenzenesulfonic acid | ClC1=C(C=C(C(=C1Cl)CC)Cl)S(=O)(=O)O | C8H7Cl3O3S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2,4-dichloro-3-ethyl-6-nitrophenol | ClC1=C(C(=CC(=C1CC)Cl)[N+](=O)[O-])O | C8H7Cl2NO3
